US07176210B2
Alternate Preparation of Intermediate 3-Ethylaminopiperidine-3-carboxylic Acid Amide, Hydrochloride Salt (I-1A-3e)
To a suspension of 1-benzhydryl-3-ethylaminoazetidine-3-carboxylic acid amide (I-1A-3d; 36.1 g, 117 mmol) in methanol (560 ml) at room temperature was added concentrated aqueous HCl (19.5 ml, 234 mmol), resulting in a clear solution. To 20% Pd(OH)2 on carbon (3.75 g) was added methanol (85 ml), followed by the methanolic solution of I-1A-3d. The mixture was placed on a Parr® shaker and then reduced (50 psi H2) at room temperature for 20 hours. The reaction was then filtered through Celite® and then concentrated to low volume under reduced pressure, at which point a precipitate formed. The suspension was diluted with MTBE (500 ml), stirred for an additional hour, and the precipitate collected by vacuum filtration. The solid was washed with MTBE and then dried, in vacuo, to afford I-1A-3e (24.8 g, 98%) as a colorless solid.

reactant | 1-benzhydryl-3-ethylaminoazetidine-3-carboxylic acid amide | 117 mmol, 36.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NCC | C19H23N3O
reactant | HCl | 234 mmol, 19.5 ml | Cl | ClH
solvent | methanol | 560 ml | CO | CH4O
solvent | MTBE | 500 ml | CC(C)(C)OC | C5H12O
catalyst | Pd(OH)2 on carbon | 3.75 g | [OH-].[OH-].[Pd+2]
solvent | methanol | 85 ml | CO | CH4O
product | 3-Ethylaminopiperidine-3-carboxylic Acid Amide, Hydrochloride Salt | Cl.C(C)NC1(CNCCC1)C(=O)N | InChI=1S/C8H17N3O.ClH/c1-2-11-8(7(9)12)4-3-5-10-6-8;/h10-11H,2-6H2,1H3,(H2,9,12);1H
